US08217028B2
7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-3-(2-nitroethyl)-1H-indole (D83)
To a suspension of NaBH4 (0.7 g) in 1,4-dioxane (150 mL) and ethanol (50 mL) stirred in air at room temperature was added a solution of 7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-3-[(E)-2-nitroethenyl]-1H-indole (D82) (2.6 g) in 1,4-dioxane (150 mL) dropwise. The reaction mixture was stirred at 20° C. for 1 h. The excess NaBH4 was quenched with dilute H2SO4. The reaction solution was concentrated. Ethyl acetate (300 mL) was added to the residue, washed with water and brine, and then dried over MgSO4. Solvent was evaporated off to give the desired product 7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-3-(2-nitroethyl)-1H-indole (D83) (2.2 g) as a yellow solid. δH (CDCl3, 400 MHz): 1.46 (6H, d), 3.55 (2H, t), 4.69-4.74 (3H, m), 7.07 (1H, d), 7.23 (1H, d), 7.30 (1H, t), 7.75 (1H, d), 8.08 (1H, dd), 8.12 (1H, d), 8.26 (1H, d), 9.74 (1H, s). MS (ES): C21H19ClN4O4 requires 426; found 427.2 (M+H+).

reactant | NaBH4 | 0.7 g | [BH4-].[Na+]
reactant | 7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-3-[(E)-2-nitroethenyl]-1H-indole | 2.6 g | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=CC=C2C(=CNC12)\C=C\[N+](=O)[O-] | C21H17ClN4O4
solvent | 1,4-dioxane | 150 mL | O1CCOCC1 | C4H8O2
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | 1,4-dioxane | 150 mL | O1CCOCC1 | C4H8O2
product | 7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-3-(2-nitroethyl)-1H-indole | 2.2 g | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=CC=C2C(=CNC12)CC[N+](=O)[O-] | C21H19ClN4O4
